data/polar.json
{"reaction_name": "Sulfonylethyl deprotection", "rsmi": "[CH3:1][NH:2][C:3](=[O:4])[O:5][CH2:6][CH:7]([H:14])[S:8](=[O:9])(=[O:10])[CH3:11].[O-:12][CH3:13]>>[CH3:1][NH-:2].[O:4]=[C:3]=[O:5].[CH2:6]=[CH:7][S:8](=[O:9])(=[O:10])[CH3:11].[O:12]([CH3:13])[H:14]", "epd": [["LP-/Sigma+", [12], [12, 14]], ["Sigma-/LP+", [7, 14], [7]], ["LP-/Pi+", [7], [6, 7]], ["Sigma-/LP+", [5, 6], [5]], ["LP-/Pi+", [5], [3, 5]], ["Sigma-/LP+", [2, 3], [2]]]}
{"reaction_name": "β-Acyloxy carbonyl elimination", "rsmi": "[CH3:1][CH:4]([O:5][C:11]([CH3:7])=[O:8])[CH:10]([C:9]([CH3:3])=[O:12])[H:13].[O-:2][CH3:6]>>[CH3:1][CH:4]=[CH:10][C:9]([CH3:3])=[O:12].[O-:5][C:11]([CH3:7])=[O:8].[O:2]([CH3:6])[H:13]", "epd": [["LP-/Sigma+", [2], [2, 13]], ["Sigma-/Pi+", [10, 13], [4, 10]], ["Sigma-/LP+", [4, 5], [5]]]}
{"reaction_name": "Cope (amine-oxide) elimination", "rsmi": "[CH3:1][N+:5]([CH3:2])([CH2:3][CH:4]([CH3:6])[H:8])[O-:7]>>[CH2:3]=[CH:4][CH3:6].[CH3:1][N:5]([CH3:2])[O:7][H:8]", "epd": [["LP-/Sigma+", [7], [7, 8]], ["Sigma-/Pi+", [4, 8], [3, 4]], ["Sigma-/LP+", [3, 5], [5]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:5][cH:17][c:14]([N+:8](=[CH2:13])[CH3:20])[cH:18][cH:6]1.[cH:2]1[cH:9][cH:4][c:15]2[c:3]([cH:19]1)[CH:21]([Zn-:12]([Cl:10])[Cl:11])[CH:16]=[CH:7]2>>[Cl:10][Zn:12][Cl:11].[cH:1]1[cH:5][cH:17][c:14]([N:8]([CH2:13][CH:21]2[c:3]3[c:15]([cH:4][cH:9][cH:2][cH:19]3)[CH:7]=[CH:16]2)[CH3:20])[cH:18][cH:6]1", "epd": [["Sigma-/Sigma+", [21, 12], [21, 13]], ["Pi-/LP+", [13, 8], [8]]]}
{"reaction_name": "Phospha-Michael addition", "rsmi": "[S:4]([c:10]1[cH:41][cH:14][cH:12][cH:17][cH:44]1)([C:37]([S:5]([c:11]1[cH:42][cH:15][cH:13][cH:16][cH:43]1)(=[O:45])=[O:46])=[CH2:6])(=[O:47])=[O:48].[c:1]1([P:36]([c:2]2[cH:19][cH:25][c:39]([N:8]([CH3:32])[CH3:33])[cH:26][cH:20]2)[c:3]2[cH:21][cH:27][c:40]([N:9]([CH3:34])[CH3:35])[cH:28][cH:22]2)[cH:18][cH:24][c:38]([N:7]([CH3:30])[CH3:31])[cH:29][cH:23]1>>[c:1]1([P+:36]([c:2]2[cH:19][cH:25][c:39]([N:8]([CH3:32])[CH3:33])[cH:26][cH:20]2)([c:3]2[cH:21][cH:27][c:40]([N:9]([CH3:34])[CH3:35])[cH:28][cH:22]2)[CH2:6][C-:37]([S:4]([c:10]2[cH:41][cH:14][cH:12][cH:17][cH:44]2)(=[O:47])=[O:48])[S:5]([c:11]2[cH:42][cH:15][cH:13][cH:16][cH:43]2)(=[O:45])=[O:46])[cH:18][cH:24][c:38]([N:7]([CH3:30])[CH3:31])[cH:29][cH:23]1", "epd": [["LP-/Sigma+", [36], [6, 36]], ["Pi-/LP+", [6, 37], [37]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[CH3:2][CH2:10][O:8][C:21]([CH:3]=[C:11]([CH3:22])[N:28]=[N:15][C:6](=[O:16])[NH:20][c:23]1[cH:26][cH:13][cH:24][cH:14][cH:27]1)=[O:17].[c:1]1([O-:25])[cH:18][cH:4][c:9]([O:12][CH3:7])[cH:5][cH:19]1>>[c:1]1([O:25][CH:3]([C:11]([CH3:22])=[N:28][N:15]=[C:6]([O-:16])[NH:20][c:23]2[cH:26][cH:13][cH:24][cH:14][cH:27]2)[C:21]([O:8][CH2:10][CH3:2])=[O:17])[cH:18][cH:4][c:9]([O:12][CH3:7])[cH:5][cH:19]1", "epd": [["LP-/Sigma+", [25], [25, 3]], ["Pi-/Pi+", [3, 11], [11, 28]], ["Pi-/Pi+", [28, 15], [15, 6]], ["Pi-/LP+", [6, 16], [16]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1](#[N:7])[C:11]([C:2]#[N:8])=[CH:3][c:12]1[cH:5][cH:9][cH:13][cH:10][cH:6]1.[Cl-:4]>>[C:1](=[N-:7])=[C:11]([C:2]#[N:8])[CH:3]([Cl:4])[c:12]1[cH:5][cH:9][cH:13][cH:10][cH:6]1", "epd": [["LP-/Sigma+", [4], [4, 3]], ["Pi-/Pi+", [3, 11], [11, 1]], ["Pi-/LP+", [1, 7], [7]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:17][C:27](=[O:8])[N:23]=[CH:14][c:7]1[cH:2][cH:20][cH:22][cH:21][cH:3]1)([CH3:24])([CH3:25])[CH3:26].[C:4]1(=[CH2:11])[N:18]([CH3:5])[c:16]2[cH:9][cH:12][cH:13][cH:10][c:15]2[N:19]1[CH3:6]>>[C:1]([O:17][C:27]([O-:8])=[N:23][CH:14]([c:7]1[cH:2][cH:20][cH:22][cH:21][cH:3]1)[CH2:11][c:4]1[n+:18]([CH3:5])[c:16]2[cH:9][cH:12][cH:13][cH:10][c:15]2[n:19]1[CH3:6])([CH3:24])([CH3:25])[CH3:26]", "epd": [["LP-/Pi+", [18], [4, 18]], ["Pi-/Sigma+", [11, 4], [11, 14]], ["Pi-/Pi+", [14, 23], [23, 27]], ["Pi-/LP+", [27, 8], [8]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[C:1]1(=[O:9])[CH:19]=[CH:12][C:17](=[N+:21]([O-:15])[O-:16])[CH:13]=[CH:20]1.[O:2]=[N+:23]([O-:7])[c:14]1[cH:3][cH:5][c:8]([CH:18]=[CH:10][N+:11]([O-:22])=[O:24])[cH:6][cH:4]1>>[c:1]1([O:9][CH:18]([c:8]2[cH:5][cH:3][c:14]([N+:23](=[O:2])[O-:7])[cH:4][cH:6]2)[CH:10]=[N+:11]([O-:22])[O-:24])[cH:19][cH:12][c:17]([N+:21](=[O:15])[O-:16])[cH:13][cH:20]1", "epd": [["LP-/Pi+", [15], [21, 15]], ["Pi-/Pi+", [17, 21], [12, 17]], ["Pi-/Pi+", [19, 12], [1, 19]], ["Pi-/Sigma+", [9, 1], [9, 18]], ["Pi-/Pi+", [18, 10], [10, 11]], ["Pi-/LP+", [11, 24], [24]]]}
